US07176321B2
200 g of 3-benzoylamino-4-bromo-1-(2,4,6-trichlorophenyl)-5- pyrazolone, 59 g of pyrazol, 14 g of 2,6-di-t-butyl-p-cresol and 100 mL of N-methylpyrrolidone were mixed, and the resultant reaction mixture was heated at 75° C. under a nitrogen gas flow while agitated. The reaction mixture was cooled to 45° C., and 400 mL of methanol, 25 g of barium hydroxide octahydrate and 138 g of a 25% (W/V) aqueous solution of sodium hydroxide were added to the reaction mixture. The resultant mixture was agitated for six hours at an internal temperature of 65° C. After the reaction mixture was cooled to 45° C., 500 mL of concentrated hydrochloric acid were added to the mixture, and precipitated insoluble substances (barium chloride and sodium chloride) were eliminated by filtration. The filtrate was extracted twice with toluene, and the aqueous phase after the extraction was neutralized by adding a 25% (W/V) aqueous solution of sodium hydroxide so that the pH value of the aqueous phase became 3.5. Precipitated crystals were separated by filtration, and the obtained crystals were washed and dried to obtain 109 g of desired 3-amino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone (yield: 73.3%) as gray-white powder.

reactant | 3-benzoylamino-4-bromo-1-(2,4,6-trichlorophenyl)-5- pyrazolone | 200 g | C(C1=CC=CC=C1)(=O)NC=1NN(C(C1Br)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C16H9BrCl3N3O2
reactant | pyrazol | 59 g | N1N=CC=C1 | C3H4N2
reactant | 2,6-di-t-butyl-p-cresol | 14 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | barium hydroxide octahydrate | 25 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 500 mL | Cl | ClH
solvent | methanol | 400 mL | CO | CH4O
solvent | N-methylpyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 3-amino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone | 109 g, yield: 73.3% | NC=1NN(C(C1N1N=CC=C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C12H8Cl3N5O
